US07449475B2
(ii) 1′-Benzyl-6-chloro-3H-spiro[2-benzofuran-1,4′-piperidine]
To a solution of 1′-benzyl-6-chloro-3H-spiro[2-benzofuran-1,4′-piperidine]-3-one (1.1 g, 3.35 mmol) in THF (15 mL) was added 1 M solution of borane (Marxer, A; Rodriguez, H. R; McKenna, J. M; Tsai, H. M., J. Org. Chem., 1975, 40, 1427-1430) complex in THF (7 mL, 7.0 mmol) slowly at 0° C. After addition was complete, the reaction mixture was kept at room temperature for 30 minutes (min), then kept at reflux overnight, cooled to 0° C. and 6M aqueous hydrochloric acid (HCl) (3.5 mL) was added slowly. The reaction mixture was kept at reflux for 5 h, cooled to 0° C., pH of the reaction mixture was adjusted to 10 by addition of aqueous NaOH 6M and the whole was extracted with ethyl acetate. The organic layer was washed with H2O, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by silica gel flash chromatography (0-30% ethyl acetate in petroleum ether) to give the sub-titled compound (900 mg).

reactant | 1′-benzyl-6-chloro-3H-spiro[2-benzofuran-1,4′-piperidine]-3-one | 3.35 mmol, 1.1 g | C(C1=CC=CC=C1)N1CCC2(CC1)OC(C1=C2C=C(C=C1)Cl)=O | C19H18ClNO2
reactant | borane | B | BH3
reactant | hydrochloric acid | 6M, 3.5 mL | Cl | ClH
reactant | NaOH | 6M | [OH-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 7.0 mmol, 7 mL | C1CCOC1 | C4H8O
product | 1′-Benzyl-6-chloro-3H-spiro[2-benzofuran-1,4′-piperidine] | 900 mg | C(C1=CC=CC=C1)N1CCC2(CC1)OCC1=C2C=C(C=C1)Cl | C19H20ClNO
